simulator lang=spectre
global 0

ahdl_include "./dut/subradix_dac10.va"

Vd9 (vd9 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 1.6n 0.9 1.65n 0 2.4n 0 2.45n 0.9 3.2n 0.9]
Vd8 (vd8 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0 1.6n 0 1.65n 0.9 2.4n 0.9 2.45n 0.9 3.2n 0.9]
Vd7 (vd7 0) vsource dc=0
Vd6 (vd6 0) vsource dc=0
Vd5 (vd5 0) vsource dc=0
Vd4 (vd4 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.2n 0.9]
Vd3 (vd3 0) vsource dc=0
Vd2 (vd2 0) vsource dc=0
Vd1 (vd1 0) vsource type=pwl wave=[0 0 2.4n 0 2.45n 0.9 3.2n 0.9]
Vd0 (vd0 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 1.6n 0.9 1.65n 0.9 3.2n 0.9]
XDUT (vd9 vd8 vd7 vd6 vd5 vd4 vd3 vd2 vd1 vd0 vout) subradix_dac10

tran tran stop=3.0n maxstep=5p
save vd0 vd1 vd2 vd3 vd4 vd5 vd6 vd7 vd8 vd9 vout
